US07151096B2
N-[3-ethoxycarbonyl-phenyl]-4-[2-(4-t-butoxycarbonylaminobutylamino)-4-trifluoromethyl-5-thiazolyl]-2-pyrimidineamine:
Diisopropylethylamine (0.1 mL, 0.6 mmol) and 4-t-butoxycarbonylamino-butylamine (25 mg, 1.4 mmol) are added to a solution of N-[3-ethoxycarbonyl-phenyl]-4-[2-chloro-4-trifluoromethyl-5-thiazolyl]-2-pyrimidineamine (52 mg, 0.12 mmol) in 50 mL anhydrous acetonitrile. The mixture is then heated to reflux overnight. The reaction is stopped, cooled to room temperature and concentrated. Water (30 mL) is added and the reaction mixture is extracted with ethyl acetate (3×100 mL). The combined organic layers are dried over MgSO4, filtered and concentrated. The residue is used in the next step without further purification; ESI-MS (m/z): 567.2 (M++H).

reactant | Diisopropylethylamine | 0.6 mmol, 0.1 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-t-butoxycarbonylamino-butylamine | 1.4 mmol, 25 mg | C(C)(C)(C)OC(=O)NCCCCN | C9H20N2O2
reactant | N-[3-ethoxycarbonyl-phenyl]-4-[2-chloro-4-trifluoromethyl-5-thiazolyl]-2-pyrimidineamine | 0.12 mmol, 52 mg | C(C)OC(=O)C=1C=C(C=CC1)NC1=NC=CC(=N1)C1=C(N=C(S1)Cl)C(F)(F)F | C17H12ClF3N4O2S
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | N-[3-ethoxycarbonyl-phenyl]-4-[2-(4-t-butoxycarbonylaminobutylamino)-4-trifluoromethyl-5-thiazolyl]-2-pyrimidineamine | C(C)OC(=O)C=1C=C(C=CC1)NC1=NC=CC(=N1)C1=C(N=C(S1)NCCCCNC(=O)OC(C)(C)C)C(F)(F)F | C26H31F3N6O4S
